US08076303B2
Preparation of 5-benzoyloxypentan-1-ol:
A mixture of benzoic acid (1 g), 1,5-pentanediol (5 mL) and p-toluenesulfonic acid (110 mg) was heated in an oil-bath at 100° C. overnight. The reaction mixture was cooled to room temperature, poured into water (50 mL) and extracted with EtOAc (2×25 mL), washed with sodium carbonated (5%, 20 mL) followed by brine (15 mL). The organic layer was dried over anhyd. sodium sulfate, filtered and concentrated to give almost pure product (1.15 g, 67%);

reactant | benzoic acid | 1 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1,5-pentanediol | 5 mL | C(CCCCO)O | C5H12O2
reactant | p-toluenesulfonic acid | 110 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 50 mL | O | H2O
product | 5-benzoyloxypentan-1-ol | 1.15 g, 67% | C(C1=CC=CC=C1)(=O)OCCCCCO | C12H16O3
